US06281358B1
Preparation of 4-(3-trifluoromethylphenoxy)-2-(4-fluorophenyl)pyrimidine
3,3-Dichloroacrolein (10 mmoles) diluted with dimethoxyethane (35 ml), is slowly added to a mixture consisting of a 4-fluorobenzamidine acetate (10 mmoles), 3-trifluoromethylphenol (11 mmoles), potassium carbonate (40 mmoles) and dimethoxyethane (40 ml), which is stirred under reflux. When the addition of 3,3-dichloroacrolein is completed additional 4-fluorobenzamidine acetate (1 mmoles) is added. The reaction mixture is stirred for 3 hours under reflux and subsequently cooled down to ambient temperature over night and filtered through silica. The organic phase is concentrated in vacuo. The residue was purified by chromatography on Al2O3 (petrol ethers/ethyl acetate: 20/1) to yield 2.52 g (75%) of the pure product having a melting point of 52° C.

reactant | 3,3-Dichloroacrolein | 10 mmoles | ClC(=CC=O)Cl | C3H2Cl2O
reactant | 4-fluorobenzamidine acetate | 10 mmoles | C(C)(=O)O.FC1=CC=C(C(=N)N)C=C1
reactant | 3-trifluoromethylphenol | 11 mmoles | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 40 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzamidine acetate | 1 mmoles | C(C)(=O)O.FC1=CC=C(C(=N)N)C=C1
solvent | dimethoxyethane | 35 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
product | 4-(3-trifluoromethylphenoxy)-2-(4-fluorophenyl)pyrimidine | 2.52 g, 75% | FC(C=1C=C(OC2=NC(=NC=C2)C2=CC=C(C=C2)F)C=CC1)(F)F | C17H10F4N2O
